US06353025B1
To a stirred solution of ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]-ethyl]phenyl]aminoacetate (87 ml) in ethyl acetate (2.0 ml) was added 2.6 M hydrogen chloride diethyl ether solution (2.0 ml) at room temperature. Collection of the resulting precipitates by filtration gave ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]aminoacetate hydrochloride (81 mg).

reactant | ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]-ethyl]phenyl]aminoacetate | 87 ml | ClC1=C(C(=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)Cl)NCC(=O)OCC | C21H26Cl2N2O4
solvent | ethyl acetate | 2.0 ml | C(C)(=O)OCC | C4H8O2
product | ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]aminoacetate hydrochloride | 81 mg | Cl.ClC1=C(C(=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)Cl)NCC(=O)OCC | InChI=1S/C21H26Cl2N2O4.ClH/c1-3-29-19(27)12-25-20-17(22)10-14(11-18(20)23)8-9-24-13(2)21(28)15-4-6-16(26)7-5-15;/h4-7,10-11,13,21,24-26,28H,3,8-9,12H2,1-2H3;1H/t13-,21-;/m0./s1
